US06559161B1
1,4-Dimethoxy-9-ethynylacridine
Potassium fluoride (0.5 g, 9.0 mmol) was added to a solution of 1,4-dimethoxy-9-trimethylsilylethynylacridine (prepared as described in Preparation 2 above) (1 g, 3.0 mmol) in methanol (30 ml) and the mixture was stirred at reflux for 30 min. The solvent was evaporated and the residue was dissolved in CH2Cl2. The organic solution was washed with H2O, dried and evaporated to give the title compound (764 mg, 97%) as a brown solid; m.p. 155-157° C. (Et2O). IR (KBr): ν/cm−1=2100 (w, C≡C), 1625 (m, Ar), 1460 (m, Ar); 1H NMR (200 MHz, CDCl3): δH/ppm=3.98 (s, 3H, OCH3), 4.10 (s, 3H, OCH3), 4.20 (s, 1H, ≡CH), 6.75 (d, J=8.4 Hz, 1H, H-2), 6.92 (d, J=8.4 Hz, 1H, H-3), 7.62 (dd, J=8.4 and 7.4 Hz, 1H, H-7), 7.78 (dd, J=8.6 and 7.4 Hz, 1H, H-6), 8.36 (d, J=8.6 Hz, 1H, H-5), 8.66 (d, J=8.4 Hz, 1H, H-8); 13C NMR (75.4 MHz, CDCl3): δC/ppm=56.0 (q, OCH3), 56.1 (q, OCH3), 85.6 (s, ≡C), 92.7 (d, ≡C), 104.1 (d, C-2), 105.8 (d, C-3), 121.0 (s, C-9a), 124.2 (s, C-9), 126.2 (d, C-6), 127.1 (d, C-7), 127.8 (s, C-8a), 130.0 (d, C-8), 130.4 (d, C-5), 141.3 (s, C-4a), 147.5 (s, C-1), 149.3 (s, C-10a), 149.5 (s, C-4); MS (EI); m/z (%)=264 [M+1] (7), 263 [M+] (35), 248 (100); HRMS: calcd. for C17H13NO2 263.0946; found 263.0940.

reactant | Potassium fluoride | 9.0 mmol, 0.5 g | [F-].[K+]
reactant | 1,4-dimethoxy-9-trimethylsilylethynylacridine | 3.0 mmol, 1 g | COC1=CC=C(C2=NC3=CC=CC=C3C(=C12)C#C[Si](C)(C)C)OC | C20H21NO2Si
solvent | methanol | 30 ml | CO | CH4O
product | 1,4-Dimethoxy-9-ethynylacridine | 764 mg, 97% | COC1=CC=C(C2=NC3=CC=CC=C3C(=C12)C#C)OC | C17H13NO2
